US08871767B2
ethyl-3-[3-[[2-methyl-5-[6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazin-2-yl]phenyl]carbamoyl]phenyl]prop-2-enoate
To a mixture of 3-bromo-N-[2-methyl-5-[6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazin-2-yl]phenyl]benzamide (0.442 g, 0.8 mmol), ethyl acrylate (0.872 mL, 8 mmol), palladium(II) acetate (9 mg, 0.04 mmol), tri(o-tolyl)phosphine (0.049 g, 0.16 mmol) in DMF (4.6 mL) and HMPA (0.4 mL) is added DIPEA (0.557 mL, 3.2 mmol). The mixture is degassed with N2 then sealed and heated at 100° C. for 15 hours. The reaction is not complete, and is stirred at 100° C. for another 24 hours. The mixture is poured into saturated aqueous NaHCO3 and extracted with EtOAc (2×). Organic layers are combined, dried and concentrated to give the title compound as a solid (485 mg), which is used without further purification. LCMS (m/z)=572.5 [M+H]+, tR=3.14 min.

reactant | 3-bromo-N-[2-methyl-5-[6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazin-2-yl]phenyl]benzamide | 0.8 mmol, 0.442 g | BrC=1C=C(C(=O)NC2=C(C=CC(=C2)C=2N=C3C=CC(=NN3C2)C=2C(=NC=CC2)C(F)(F)F)C)C=CC1 | C26H17BrF3N5O
reactant | ethyl acrylate | 8 mmol, 0.872 mL | C(C=C)(=O)OCC | C5H8O2
reactant | tri(o-tolyl)phosphine | 0.16 mmol, 0.049 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | DIPEA | 3.2 mmol, 0.557 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 4.6 mL | CN(C)C=O | C3H7NO
solvent | HMPA | 0.4 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
catalyst | palladium(II) acetate | 0.04 mmol, 9 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl-3-[3-[[2-methyl-5-[6-[2-(trifluoromethyl)-3-pyridyl]imidazo[2,1-f]pyridazin-2-yl]phenyl]carbamoyl]phenyl]prop-2-enoate | 485 mg | C(C)OC(C=CC1=CC(=CC=C1)C(NC1=C(C=CC(=C1)C=1N=C2C=CC(=NN2C1)C=1C(=NC=CC1)C(F)(F)F)C)=O)=O | C31H24F3N5O3
